US06765012B2
3-[{4-(3-Morpholin-4-yl-propylamino)-phenylamino]-methylene}-1,3-dihydroindol-2-one
Example 298-301 are prepared by substituting the appropriate 6′-fluoro or 5′-chloro or 5′-fluoro or 4′-fluoro substituted 1,3-dihydro-indol-2-one for the 1,3-dihydro-indol-2-one and N-(3-morpholin-4-yl-propyl)-benzene-1,4-diamine (used in the preparation of Example 297) for aniline in the reaction of Example 1.

reactant | 1,3-dihydro-indol-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N-(3-morpholin-4-yl-propyl)-benzene-1,4-diamine | N1(CCOCC1)CCCNC1=CC=C(C=C1)N | C13H21N3O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-[{4-(3-Morpholin-4-yl-propylamino)-phenylamino]-methylene}-1,3-dihydroindol-2-one | N1(CCOCC1)CCCNC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C22H26N4O2
